US09399636B2
Step 2: 2′-chloro-6′-(3,3-difluoropyrrolidin-1-yl)-3,4′-bipyridine
To a solution of 2,6-dichloro-4-(3-pyridyl)pyridine (48 mg, 0.21327 mmol) and 3,3-difluoropyrrolidine hydrochloride (153 mg, 5.0 equiv., 1.0663 mmol) in NMP (1.0 mL, 10 mmol) in a microwave vial was added DIPEA (0.26 mL, 7.0 equiv., 1.4929 mmol), and the reaction was maintained at 140° C. for 60 min then at 150° C. for 20 min in the microwave machine, while LCMS indicated the conversion was more than 95%. The crude was used without further treatment. LCMS: m/z 296 (M+H).

reactant | 2,6-dichloro-4-(3-pyridyl)pyridine | 0.21327 mmol, 48 mg | ClC1=NC(=CC(=C1)C=1C=NC=CC1)Cl | C10H6Cl2N2
reactant | 3,3-difluoropyrrolidine hydrochloride | 1.0663 mmol, 153 mg, 5.0 equiv. | Cl.FC1(CNCC1)F
reactant | NMP | 10 mmol, 1.0 mL | CN1CCCC1=O | C5H9NO
reactant | DIPEA | 1.4929 mmol, 0.26 mL, 7.0 equiv. | CCN(C(C)C)C(C)C | C8H19N
product | 2′-chloro-6′-(3,3-difluoropyrrolidin-1-yl)-3,4′-bipyridine | ClC1=NC(=CC(=C1)C=1C=NC=CC1)N1CC(CC1)(F)F | C14H12ClF2N3
